US07576077B2
2-Ethoxycarbonylmethyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester
Triethyl amine (9.0 mL, 64.4 mmol) and di-tert-butyl-dicarbonate (7.0 g, 32.2 mmol) were added to (3-oxo-piperazin-2-yl)-acetic acid ethyl ester (4.0 g, 21.5 mmol) in 1,4-dioxane (4.0 mL) and water (2 mL) at room temperature and stirred overnight. The reaction mixture was concentrated and then the residue was diluted with dichloromethane. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated. The residue was triturated with hexanes, filtered, and dried to afford the titled compound (5.66 g, 92%, white solid).

reactant | Triethyl amine | 64.4 mmol, 9.0 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 32.2 mmol, 7.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | (3-oxo-piperazin-2-yl)-acetic acid ethyl ester | 21.5 mmol, 4.0 g | C(C)OC(CC1NCCNC1=O)=O | C8H14N2O3
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 2 mL | O | H2O
product | 2-Ethoxycarbonylmethyl-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 5.66 g, 92% | C(C)(C)(C)OC(=O)N1C(C(NCC1)=O)CC(=O)OCC | C13H22N2O5
